US04420615
1-(2-Diisopropylaminoethyl)-5,7-dimethyl-1,2-dihydropyrido[2,3-d]-pyrimidin-2-one
A solution of 1-(2-diisopropylaminoethyl)-5,7-dimethyl-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-2-one (3.5 g, 11.1 mmol) in methylene chloride (100 ml) containing activated manganese dioxide (9.0 g) is heated at reflux for 16 hours. The solution is filtered hot to remove the manganese dioxide and the manganese dioxide is extracted twice with hot chloroform. The organic extracts are combined, dried and evaporated to give 3.6 g of crude product which is crystallized from cyclohexane to give 2.0 g of pure title product; m.p.: 148°-150° C.

reactant | 1-(2-diisopropylaminoethyl)-5,7-dimethyl-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-2-one | 11.1 mmol, 3.5 g | C(C)(C)N(CCN1C(NCC2=C1N=C(C=C2C)C)=O)C(C)C | C17H28N4O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 9.0 g | [O-2].[O-2].[Mn+4]
product | 1-(2-Diisopropylaminoethyl)-5,7-dimethyl-1,2-dihydropyrido[2,3-d]-pyrimidin-2-one | 2.0 g | C(C)(C)N(CCN1C(N=CC2=C1N=C(C=C2C)C)=O)C(C)C | C17H26N4O
